US09290476B2
6-Bromo-2-ethyl-3-(4-(trifluoromethyl)benzyl)quinolin-4-ol
A round-bottomed flask equipped with a Dean-Stark apparatus was charged with ethyl 3-oxo-2-(4-(trifluoromethyl)benzyl)pentanoate (8.84 g, 29.2 mmol, Intermediate 58: step a), 4-bromoaniline (5.00 g, 29.2 mmol), para-toluenesulfonic acid (0.503 g, 2.9 mmol), and toluene (146 mL). The mixture was heated to 125° C. After 18 h, the flask was cooled to room temperature. The toluene was removed by rotary evaporation to provide an amber colored solid. A mixture of the solid and diphenyl ether (29.1 mL) was heated to 220° C. After 70 min, the mixture was cooled to room temperature. Ether (100 mL) and hexanes (50 mL) were added. The mixture was allowed to stir for 30 min during which time a white solid crashed out of solution. The whole was filtered through paper, rinsing with ether. The gummy solids were collected. Acetonitrile (20 mL) was added and the mixture was sonicated for 5 min. The slurry was filtered through paper and the solids were rinsed with acetonitrile. The off-white solids were collected, dried, and then used in the next step without further purification.

reactant | ethyl 3-oxo-2-(4-(trifluoromethyl)benzyl)pentanoate | O=C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)CC | C15H17F3O3
reactant | 4-bromoaniline | 29.2 mmol, 5.00 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | para-toluenesulfonic acid | 2.9 mmol, 0.503 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diphenyl ether | 29.1 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | Ether | 100 mL | CCOCC | C4H10O
solvent | toluene | 146 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-2-ethyl-3-(4-(trifluoromethyl)benzyl)quinolin-4-ol | BrC=1C=C2C(=C(C(=NC2=CC1)CC)CC1=CC=C(C=C1)C(F)(F)F)O | C19H15BrF3NO
